US04742052
To a solution of p-nitrobenzyl 4-carboxy-4-methylvalerate (17.26 g) in dry dimethylformamide (100 ml), prepared by the procedure similar to that described in Example 174 from 2,2-dimethylglutaric anhydride and p-nitrobenzyl alcohol, was added p-methoxybenzyl chloride (9.16 g) and triethylamine (5.91 g). The reaction mixture was stirred at 80° C. for 9.5 hours, diluted with water and extracted with diethyl ether. The extract was washed successively with aqueous potassium carbonate, water, dilute hydrochloric acid and again water, dried over anhydrous sodium sulfate and evaporated to give p-nitrobenzyl 4-p-methoxybenzyloxycarbonyl-4-methylvalerate.

reactant | p-nitrobenzyl 4-carboxy-4-methylvalerate | 17.26 g | C(=O)(O)C(CCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C14H17NO6
reactant | 2,2-dimethylglutaric anhydride | CC1(C(=O)OC(CC1)=O)C | C7H10O3
reactant | p-nitrobenzyl alcohol | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | p-methoxybenzyl chloride | 9.16 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 5.91 g | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl 4-p-methoxybenzyloxycarbonyl-4-methylvalerate | COC1=CC=C(COC(=O)C(CCC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C22H25NO7
